US06262074B1
Step 1: 8-Cyano-5-nitroquinoline
5.80 g of 8-bromo-5-nitroquinoline and 2.00 g of copper(I) cyanide in 15 ml of dimethylformamide were heated to 150° C. for 5 hours. After cooling, methylene chloride was added, insoluble particles were filtered off and the filtrate was concentrated.

reactant | 8-bromo-5-nitroquinoline | 5.80 g | BrC=1C=CC(=C2C=CC=NC12)[N+](=O)[O-] | C9H5BrN2O2
reactant | copper(I) cyanide | 2.00 g | [Cu]C#N
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 8-Cyano-5-nitroquinoline | C(#N)C=1C=CC(=C2C=CC=NC12)[N+](=O)[O-] | C10H5N3O2
